US07858621B2
3-(6-tert-Butyl-2-methoxy-pyridin-3-yl)-N-(3-fluoro-4-methane sulfonylamino-benzyl)-acrylamide
3-fluoro-4-methanesulfonylaminobenzylamine hydrochloride (17.8 mg, 0.052 mmol) was reacted with 3-(6-tert-butyl-2-methoxy-pyridin-3-yl)-acrylic acid (12 mg) DMTMM (1.1 eq, 16 mg) and NMP (1.2 eq, 90 μl) in THF to give the title compound (14 mg, 61.8%) after purification by column chromatography (Hex EtOAc=3/2).

reactant | 3-fluoro-4-methanesulfonylaminobenzylamine hydrochloride | 0.052 mmol, 17.8 mg | Cl.FC=1C=C(CN)C=CC1NS(=O)(=O)C
reactant | 3-(6-tert-butyl-2-methoxy-pyridin-3-yl)-acrylic acid | 12 mg, 1.1 eq | C(C)(C)(C)C1=CC=C(C(=N1)OC)C=CC(=O)O | C13H17NO3
reactant | NMP | 90 μl, 1.2 eq | CN1CCCC1=O | C5H9NO
solvent | THF | C1CCOC1 | C4H8O
product | 3-(6-tert-Butyl-2-methoxy-pyridin-3-yl)-N-(3-fluoro-4-methane sulfonylamino-benzyl)-acrylamide | 14 mg, 61.8% | C(C)(C)(C)C1=CC=C(C(=N1)OC)C=CC(=O)NCC1=CC(=C(C=C1)NS(=O)(=O)C)F | C21H26FN3O4S
